US07825256B2
Hydroxylamine (1.0 mL of a 50 wt % in H2O, 15 mmol) was added all at once a solution of [{3-[(benzo[1,3]dioxol-5-ylmethyl)-amino]-propyl}-(3-imidazol-1-yl-[1,2,4]thiadiazol-5-yl)-amino]-acetonitrile (30 mg, 75 μmol) in MeOH (1.0 mL) at r.t. The reaction mixture stirred at r.t. for 30 h prior to concentrating to a white solid. The residue was purified using column chromatography (CH2Cl2 to 4:1 CH2Cl2/MeOH) to afford 7.0 mg (22%) of 2-[{3-[(benzo[1,3]dioxol-5-ylmethyl)-amino]-propyl}-(3-imidazol-1-yl-[1,2,4]thiadiazol-5-yl)-amino]-N-hydroxy-acetamidine as a white solid. [M+H]+ 430.91; 1H NMR (400 MHz, CD3OD) δ 8.39 (s, 1H), 7.79 (s, 1H), 7.76 (s, 1H), 7.07 (s, 1H), 6.82 (s, 1H), 6.76-6.70 (m, 2H), 5.89 (s, 2H), 4.19 (s, 2H), 3.65 (s, 2H), 3.58 (m, 2H), 2.63 (t, 2H), 1.94 (tt, 2H).

reactant | Hydroxylamine | NO | H3NO
reactant | [{3-[(benzo[1,3]dioxol-5-ylmethyl)-amino]-propyl}-(3-imidazol-1-yl-[1,2,4]thiadiazol-5-yl)-amino]-acetonitrile | 75 μmol, 30 mg | O1COC2=C1C=CC(=C2)CNCCCN(C2=NC(=NS2)N2C=NC=C2)CC#N | C18H19N7O2S
solvent | H2O | O | H2O
solvent | MeOH | 1.0 mL | CO | CH4O
product | 2-[{3-[(benzo[1,3]dioxol-5-ylmethyl)-amino]-propyl}-(3-imidazol-1-yl-[1,2,4]thiadiazol-5-yl)-amino]-N-hydroxy-acetamidine | 7.0 mg, 22% | O1COC2=C1C=CC(=C2)CNCCCN(CC(=N)NO)C2=NC(=NS2)N2C=NC=C2 | C18H22N8O3S
